US04261996
4,9-Dihydro-7-(methylsulfinyl)-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid.
A mixture of 4,9-dihydro-7-methylthio-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid (5.5 g; 0.02 mole) and 1(N) sodium hydroxide solution (25 ml) in water (500 ml) is chilled to 12° and a solution of sodium metaperiodate (4.28 g, 0.02 mole) in water (150 ml) is added. The reaction mixture is stirred at room temperature for 4 hrs and the resulting solution is cooled and treated with 1(N) HCl (30 ml). The greenish precipitate is filtered, washed and recrystallized from DMF-methanol. Yield 4.4 g; mp 285°-90° (d).

reactant | 4,9-dihydro-7-methylthio-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | 0.02 mole, 5.5 g | CSC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C12H9N3O3S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | sodium metaperiodate | 0.02 mole, 4.28 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | HCl | 30 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 4,9-Dihydro-7-(methylsulfinyl)-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | CS(=O)C1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C12H9N3O4S
